US05250220
0.01 mol of 4-(3,4-difluorophenyl)benzamidine hydrochloride and 0.01 mol of α-propyl-β-dimethylaminoacrolein are introduced into a solution of sodium methylate and methanol, and the mixture is refluxed for 5 hours. The methanol is evaporated off, the residue is taken up in toluene, and the solution is subjected to customary aqueous work-up, to give 5-n-propyl-2-[4-(3,4-difluorophenyl)phenyl]pyrimidine.

reactant | 4-(3,4-difluorophenyl)benzamidine hydrochloride | 0.01 mol | Cl.FC=1C=C(C=CC1F)C1=CC=C(C(=N)N)C=C1
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 5-n-propyl-2-[4-(3,4-difluorophenyl)phenyl]pyrimidine | C(CC)C=1C=NC(=NC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C19H16F2N2
